US06265401B1
Ethyl 3-[4-[2-(2,3-dihydro-1,4-benzoxazin-4-yl)ethoxy]phenyl]-2-hydroxypropanoate
The title compound (0.14 g, 32%) was prepared as a gummy liquid from 2-(2,3-dihydro-1,4-benzoxazin-4-yl)ethyl methanesulfonate (0.36 g, 1.42 mmol), potassium carbonate (0.80 g, 5.8 mmol) and ethyl 2-hydroxy-3-(4-hydroxyphenyl)propanoate (0.3 g, 1.42 mmol) using conditions analogous to that described in preparation 2.

reactant | 2-(2,3-dihydro-1,4-benzoxazin-4-yl)ethyl methanesulfonate | 1.42 mmol, 0.36 g | CS(=O)(=O)OCCN1CCOC2=C1C=CC=C2 | C11H15NO4S
reactant | potassium carbonate | 5.8 mmol, 0.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-hydroxy-3-(4-hydroxyphenyl)propanoate | 1.42 mmol, 0.3 g | OC(C(=O)OCC)CC1=CC=C(C=C1)O | C11H14O4
product | Ethyl 3-[4-[2-(2,3-dihydro-1,4-benzoxazin-4-yl)ethoxy]phenyl]-2-hydroxypropanoate | 0.14 g, 32% | O1CCN(C2=C1C=CC=C2)CCOC2=CC=C(C=C2)CC(C(=O)OCC)O | C21H25NO5
